data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4140,"C[Si](C)(C)C[CH:1]=[CH2:2].[Cl:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5451,"I[P:1](I)I.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6753,"CC1(C2=CC=CC=C2)CCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7852,"C1CC[C:1](=[OH+:2])CC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OC1=C([OH:3])C=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3084,"CC#[C:1][H:2].CC(C)[N-:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5523,"C(CC1=CC=CC=C1)#[C-:1].O=[S+](=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5475,"CCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,334,"COC1=CC=CC(CCNC(C)=[O:1])=C1.Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2571,"CC1(CCC(C)(N2CCCC2C(=O)[O-])[OH:1])C(=O)CCC1=O.O=C([O-])C1CCC[NH+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2649,"CC(=O)O.CC1=CC2C(C(C)C)CC3CC1CC32.N#[C-:1].O=S(=O)(O)[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,876,"CC1=[O+:1][CH:2]2OCCCC2O1.C[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2462,"CC(C)CC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CC(C)C)C1.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6766,"CC(=O)O[C:1](=[CH:2]NC(=O)C1=CC=CC=C1)[O-:3].COC1=C([CH:4]=[O:5])C(O)=CC=C1.O=C(O)[O][K].[K+]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9577,"CC[C:1](C)(C#N)[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2161,"CC(O)CCCCN1C(=O)C2=C(N=CN2CC2=CC=CC=C2)N(C)C1=O.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.CN1CC(O)CC1=O.O=C(C1=CC=C([N+](=O)[O-])C=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1133,"CS(=O)(=O)[O:1][H:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1433,"C[N+:1](C)=[CH:2]C(F)(F)F.C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1791,"NC1=C2NC(=O)N(C3OC(CO)C(O)C3O)C2=NC([O-])[N:1]1CC1=CC(Br)=C(O)C(Br)=C1.[Br-].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8824,"C1=CC=[N:1]C=C1.CC12CCC(O)CC1=CCC1C2CCC2(C)C1CCC2C1(C)OCC[O+:2]1[H:3].O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4386,"O=C1CCC(=O)N1.O=CC1=CC=C([CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,5315,"C1[CH:1]([OH:2])[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7774,"C[CH2:1][O:2][P+:3](C)(C)C.[N-]=[N+]=[N-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,1916,"C1=CC=NC=C1.COC1=CC=C(C2OCC3OC([OH:1])C(C)C(C)C3O2)C=C1.CO[P+:2](Br)(OC)OC.[Br-]|(1, 2)"
train,pmechdb_split_0,0,3983,"O=CCC(C1=CC=CC=C1)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10306,"CCC[CH:1]=[C:2](C1=C(O)C=CC(Br)=C1)[OH:3].O.O=C([O-])C(F)(F)F.O=[N+]([O-])C1=CC=C([CH:4]=[N+:5]2CCCC2C2=NN=NN2)C=C1|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3348,"C1=C2CCCC[C:1]2([OH2+:2])[O:3]CC1.CS(=O)(=O)[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7051,"CC(=O)[O:1][H:2].N#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4461,"C1=CC2=C(C=C1)[CH:1]=[CH:2][NH:3]2.CC(=O)[O-].C[N+:4](C)=[CH2:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6599,"CC(CBr)[O:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6353,"CO[CH:1]=[O+:2]C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6865,"CN(CC[C+:1](C)C)C[C:2]#[C:3]C[Si](C)(C)C|((3, 2), 1)"
train,pmechdb_split_0,0,3167,"CCCCCC1CC(C)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7043,"CCC(=O)O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,3547,"Br[CH:1]([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9890,"CCC1CCC[C+:1](C)C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,3719,"CCCO[C:1](C(C)C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4490,"COC(=O)C=C(CC1=CC=CC=C1)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1077,"CC(C)(C)C(=O)[O:1][H:2].CC12COC(=O)C1(C)C(O[Si](C)(C)C(C)(C)C)C=C2CO.CCOC(C)(OCC)[O:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3371,"CC1=CC(C)=NC(C)=C1.CC1=CC2=C(CC(C)(C)[C:1](=[N+:2]=[N-:3])[C:4]2=[O:5])O1.OCC1=CC=CC=C1|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8723,"C[N:1]1CCCC1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8762,"CCC1C[CH:1]([H:2])[C+:3](C)C1.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5450,"CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1CC2C[C:1]3(CC2C1)[OH+:2]CC(C)(C)C[O:3]3.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3602,"CON1C(=O)C2(CC([C:1](=[O:2])[N:3]=[N+:4]=[N-:5])C3COC2C(=O)C3)C2=C1C=CC=C2.[Cl-]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1831,"C[P:1](Cl)Cl.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,6567,"CCCCO.CCCC[O][Al-:1]([CH2]C(C)C)([CH2]C(C)C)[OH+:2]CCCC|((1, 2), 2)"
